US07495103B2
Methyl chloroformate (58 mL, 750 mmol) was added dropwise to a solution of 2,4-di-tert-butyl-phenol (103.2 g, 500 mmol), Et3N (139 mL, 1000 mmol) and DMAP (3.05 g, 25 mmol) in dichloromethane (400 mL) cooled in an ice-water bath to 0° C. The mixture was allowed to warm to room temperature while stirring overnight, then filtered through silica gel (approx. 1 L) using 10% ethyl acetate-hexanes (˜4 L) as the eluent. The combined filtrates were concentrated to yield carbonic acid 2,4-di-tert-butyl-phenyl ester methyl ester as a yellow oil (132 g, quant.). 1H NMR (400 MHz, DMSO-d6) δ 7.35 (d, J=2.4 Hz, 1H), 7.29 (dd, J=8.5, 2.4 Hz, 1H), 7.06 (d, J=8.4 Hz, 1H), 3.85 (s, 3H), 1.30 (s, 9H), 1.29 (s, 9H).

reactant | Methyl chloroformate | 750 mmol, 58 mL | ClC(=O)OC | C2H3ClO2
reactant | 2,4-di-tert-butyl-phenol | 500 mmol, 103.2 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | Et3N | 1000 mmol, 139 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 25 mmol, 3.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | carbonic acid 2,4-di-tert-butyl-phenyl ester methyl ester | COC(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)=O | C16H24O3
